US05736534
[(4-(3,4-Dihydro-2H-quinolin-1-yl)-7-ethoxycarbonylmethoxy-quinazolin-6-yloxyl-acetic acid ethyl ester
Utilizing a procedure analogous to that described in Example 1, this product was prepared in 19% yield from 1,2,3,4-tetrahydroquinoline and (4-chloro-7-ethoxycarbonylmethoxy-quinazolin-6-yloxy)-acetic acid ethyl ester. (film; LC-MS: 465 (MH+)).

reactant | 1,2,3,4-tetrahydroquinoline | N1CCCC2=CC=CC=C12 | C9H11N
reactant | (4-chloro-7-ethoxycarbonylmethoxy-quinazolin-6-yloxy)-acetic acid ethyl ester | C(C)OC(COC=1C=C2C(=NC=NC2=CC1OCC(=O)OCC)Cl)=O | C16H17ClN2O6
product | 4-(3,4-Dihydro-2H-quinolin-1-yl)-7-ethoxycarbonylmethoxy-quinazolin-6-yloxyl-acetic acid ethyl ester | 19% yield | C(C)OC(COC=1C=C2C(=NC=NC2=CC1OCC(=O)OCC)N1CCCC2=CC=CC=C12)=O | C25H27N3O6
